US03932503
A mixture of 10.3 g of of N-[4-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-ethyl)-benzenesulfonyl-urea (melting point 171° -173°C), 300 ml of toluene, 30 ml of glycolmonomethyl-ether, 1.65 g of glacial acetic acid and 3.3 g of 2-chloro-cyclohexylamine are heated under reflux for 5 hours. Then the whole is concentrated in vacuo and the residue is treated with alcohol. The N-[4-(β<2-methoxy-5-chlorobenzamido> -ethyl)-benzenesulfonyl]-N'-(2-chlorocyclohexyl)-urea obtained as crude product melts at 194° -195°C after recrystallization from methanol/dimethylformamide.

reactant | benzenesulfonyl-urea | C1(=CC=CC=C1)S(=O)(=O)NC(=O)N | C7H8N2O3S
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-chloro-cyclohexylamine | 3.3 g | ClC1C(CCCC1)N | C6H12ClN
solvent | acetic acid | 1.65 g | C(C)(=O)O | C2H4O2
product | N'-(2-chlorocyclohexyl)-urea | ClC1C(CCCC1)NC(N)=O | C7H13ClN2O
